US06054605
2,3-difluoro-6-trifluoromethylbenzonitrile (Compound No. 34)
To a solution of 35.0 g of 3-chloro-2-fluoro-6-trifluoromethylbenzo nitrile in 200 ml of sulfolane was added 36.3 g of spray-dried potassium fluoride and 4.1 g of 18-crown-6-ether, and the mixture was stirred for 7 hours at 160-170° C. under a nitrogen atmosphere. After cooling, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer obtained was washed with saturated saline solution and then dried over anhydrous magnesium sulfate. Following to the concentration of the extract, the oily product obtained was distilled under reduced pressure to obtain 25.7 g of the title compound (bp. 98-100° C. (25 mmHg) nD 20.0-1.4413).

reactant | 3-chloro-2-fluoro-6-trifluoromethylbenzo nitrile | 35.0 g | ClC=1C(=C(C#N)C(=CC1)C(F)(F)F)F | C8H2ClF4N
reactant | potassium fluoride | 36.3 g | [F-].[K+]
reactant | 18-crown-6-ether | 4.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | sulfolane | 200 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2,3-difluoro-6-trifluoromethylbenzonitrile | 25.7 g | FC1=C(C#N)C(=CC=C1F)C(F)(F)F | C8H2F5N
